US08236949B2
Synthesis of 3-(5-Aminopyridin-2-yl)-6-(pyridin-2-yl)-1,2,4,5-tetrazine (30)
To a solution of 3-(5-aminopyridin-2-yl)-6-(pyridin-2-yl)-1,4-dihydro-1,2,4,5-tetrazine (0.950 g, 3.8 mmol) in anhydrous toluene (25 mL) under N2 was added 2,3-dichloro-5,6-dicyanobenzoquinone (1.7 g, 7.5 mmol). The reaction mixture was allowed to reflux and stir for 12 hr. The reaction mixture was concentrated under reduced pressure, and the crude residue was concentrated in vacuo onto deactivated silica gel and chromatographed using a gradient (0-100%) of acetone in hexanes to give 771 mg (3.1 mmol, 81%) of the title compound as a red solid, mp 207-209° C.

reactant | 3-(5-aminopyridin-2-yl)-6-(pyridin-2-yl)-1,4-dihydro-1,2,4,5-tetrazine | 3.8 mmol, 0.950 g | NC=1C=CC(=NC1)C1=NNC(=NN1)C1=NC=CC=C1 | C12H11N7
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 7.5 mmol, 1.7 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Aminopyridin-2-yl)-6-(pyridin-2-yl)-1,2,4,5-tetrazine | 3.1 mmol, 771 mg, 81% | NC=1C=CC(=NC1)C=1N=NC(=NN1)C1=NC=CC=C1 | C12H9N7
